US06498165B1
2-[(S)-1-Phenylethylamino]-4-[5-(tetrafluoropyridin-4-yl)benzimidazol-1-yl]pyrimidine
The title compound was prepared according to the procedure described in EXAMPLE 424, starting from 2-[(S)-1-Phenylethylamino]-4-[5-trimethylstannylbenzimidazol-1-yl]pyrimidine and 4-bromo-2,3,5,6-tetrafluoropyridine. Mass spectrum (ESI) 465.5 (M+1).

reactant | 2-[(S)-1-Phenylethylamino]-4-[5-trimethylstannylbenzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)[Sn](C)(C)C
reactant | 4-bromo-2,3,5,6-tetrafluoropyridine | BrC1=C(C(=NC(=C1F)F)F)F | C5BrF4N
product | 2-[(S)-1-Phenylethylamino]-4-[5-(tetrafluoropyridin-4-yl)benzimidazol-1-yl]pyrimidine | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)C2=C(C(=NC(=C2F)F)F)F | C24H16F4N6
